US07402608B2
Reductive amination of 3-amino-thiophene-2-carboxylic acid methyl ester (3.0 g, 19.1 mmol) and 4-oxo-piperidine-1-carboxylic acid benzyl ester (4.46 g, 19.1 mmol)in THF (4.6 mL) employing Bu2SnCl2 (0.598 g, 1.92 mmol) and PhSiH3 (2.58 mL, 21.6 mmol) was carried out as described for example 19, step I gave 4-(2-methoxycarbonyl-thiophen-3-ylamino)-piperidine-1-carboxylic acid benzyl ester (7.25 g, quantitative). NMR 1H (CDCl3, 400 MHz): 7.4-7.3 (m, 6H), 6.9-6.78 (m, 1H), 6.7-6.6 (m, 1H), 5.14 (s, 2H), 4.15-4.0 (m, 2H), 3.81 (s, 3H), 3.6-3.45 (m), 3.1 (brt, 2H), 2.1-1.9 (m, 2H), 1.6-1.45 (m, 2H).

reactant | 3-amino-thiophene-2-carboxylic acid methyl ester | 19.1 mmol, 3.0 g | COC(=O)C=1SC=CC1N | C6H7NO2S
reactant | 4-oxo-piperidine-1-carboxylic acid benzyl ester | 19.1 mmol, 4.46 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)=O | C13H15NO3
reactant | Bu2SnCl2 | 1.92 mmol, 0.598 g | [Sn](Cl)(Cl)(CCCC)CCCC
reactant | PhSiH3 | 21.6 mmol, 2.58 mL | C1(=CC=CC=C1)[SiH3] | C6H8Si
solvent | THF | 4.6 mL | C1CCOC1 | C4H8O
product | 4-(2-methoxycarbonyl-thiophen-3-ylamino)-piperidine-1-carboxylic acid benzyl ester | 7.25 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)NC1=C(SC=C1)C(=O)OC | C19H22N2O4S
